US06180622B2
e) (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid (stereoisomer A)
Morpholine (0.026 ml) and 6.5 mg of tetrakis(triphenylphosphine)palladium(0) are added to a solution of 65.6 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer A) and 12 mg of triphenylphosphine in a mixture of 0.55 ml of anhydrous THF with 0.55 ml of dry methanol, and the mixture is stirred in an argon atmosphere at room temperature for 30 min. Ethyl acetate (5 ml) and 1 ml of dichloromethane are added thereof, and the resultant precipitate is further washed with 5 ml of ethyl acetate and 1 ml of dichloromethane, followed by drying in vacuo to give 48.4 mg of a colorless powder. The colorless powder is successively purified by column chromatography on Cosmosil 40C18-PREP (water:methanol=5:1 to 3:1) and on Cosmosil 5C18-MS (water:methanol=3:1) to give 3.3 mg of the title compound as a colorless flocculent material.

reactant | Morpholine | 0.026 ml | N1CCOCC1 | C4H9NO
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 65.6 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C1=NC=C2SC=CN21)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
reactant | triphenylphosphine | 12 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 0.55 ml | CO | CH4O
solvent | THF | 0.55 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 6.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | Ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 48.4 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)C(C2=NC=C3SC=CN32)O)C(=O)O)C1=O | C20H24N4O5S2
